US08871766B2
A) (4-benzyl-4-hydroxypiperidin-1-yl)(2-chloropyridin-3-yl)methanone
To a mixture of 2-chloronicotinic acid (1.0 g), toluene (15 mL) and DME (5 mL) was added thionyl chloride (0.51 mL), and the mixture was stirred at 90° C. for 4 hr under a nitrogen atmosphere. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in THF (15 mL), and triethylamine (0.97 mL) and 4-benzyl-4-hydroxypiperidine (1.1 g) were added thereto. The reaction mixture was stirred overnight at room temperature under a nitrogen atmosphere, saturated aqueous sodium hydrogen carbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.9 g).

reactant | 2-chloronicotinic acid | 1.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 0.51 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DME | 5 mL | COCCOC | C4H10O2
product | (4-benzyl-4-hydroxypiperidin-1-yl)(2-chloropyridin-3-yl)methanone | 1.9 g | C(C1=CC=CC=C1)C1(CCN(CC1)C(=O)C=1C(=NC=CC1)Cl)O | C18H19ClN2O2
